US09212190B2
For the preparation of the starting material compound 94.5, please see Example 94. A 25-mL round-bottom flask was charged with a solution of tert-butyl N-(4-[[(3R)-3-[(2S)-2-carbamoyl-2-methoxyethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (100 mg, 0.20 mmol, 1.00 equiv) in dichloromethane (10 mL). Hydrochloric acid (2 M, 0.8 mL) was added at 0° C. and the resulting mixture was stirred at room temperature for 5 h. After completion, the resulting mixture was concentrated under vacuum to afford (2S)-2-methoxy-3-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide hydrochloride (90 mg) as a light yellow solid. The residue hydrochloride (90 mg) dissolved in 5 mL of methanol was added HCHO (37%, 0.5 mL) and stirred for 30 min at room temperature. Then NaBH3CN (50 mg) was added and the resulting solution was allowed to react, with stirring, for an additional 2 hr at ambient temperature. After completion, the resulting solution was diluted with 20 mL of water, extracted with 3×50 mL of DCM and concentrated under vacuum. The crude product (90 mg) was purified by preparative HPLC under the following conditions (SHIMADZU): column: SunFire Prep C18, 19*150 mm 5 um; mobile phase: water with 0.1% HCOOH and CH3CN (6.0% CH3CN up to 75% in 20 min); flow rate: 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and partially evaporated to remove water and CH3CN under reduced pressure. The residue was lyophilized overnight to give the desired (2S)-3-[(3R)-12-[[4-(dimethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-2-methoxypropanamide (31.3 mg, 40%) as an off-white semi-solid. MS (ES): m/z 419 [M-1.2HCOOH+H]+. 1H NMR (300 MHz, CD3OD): δ 8.44 (m, 2H), 5.30-5.27 (s, 1H), 3.67-3.63 (m, 1H), 3.46-3.27 (m, 5H), 3.08-2.84 (m, 8H), 2.72-2.66 (m, 1H), 2.48-2.17 (m, 6H), 1.83-1.28 (m, 5H).

reactant | tert-butyl N-(4-[[(3R)-3-[(2S)-2-carbamoyl-2-methoxyethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 0.20 mmol, 100 mg, 1.00 equiv | C(N)(=O)[C@H](C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C)OC | C25H36N4O5S
reactant | Hydrochloric acid | 2 M, 0.8 mL | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (2S)-2-methoxy-3-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide hydrochloride | 90 mg | Cl.CO[C@H](C(=O)N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)NC | InChI=1S/C20H28N4O3S.ClH/c1-22-12-4-6-13(7-5-12)27-19-17-16-11(9-14(26-2)18(21)25)3-8-15(16)28-20(17)24-10-23-19;/h10-14,22H,3-9H2,1-2H3,(H2,21,25);1H/t11-,12?,13?,14+;/m1./s1
